US06506797B1
Ethyl 2-ethyl-3-[4-methoxy-3-[N-[[4-(trifluoromethyl)phenyl]-methyl]carbamoyl]phenyl]propanoate
Ethyl 3-(3-carboxy-4-methoxyphenyl)-2-ethylpropanoate (5.00 g, 17.8 mmol) was dissolved in 80 ml of dehydrated dichloroethane, which was cooled to −10° C. to −15° C. Triethylamine (6.21 ml, 44.5 mmol) was added under stirring. Next, ethyl chlorocarbonate (1.86 ml, 19.5 mmol), dissolved in 10 ml of dehydrated dichloromethane was added dropwise. After stirring for 10 minutes at −10° C., 4-(trifluoromethyl)benzylamine (2.51 ml, 17.8 mmol), dissolved in 10 ml of dehydrated dichloromethane was added dropwise.

reactant | Ethyl 3-(3-carboxy-4-methoxyphenyl)-2-ethylpropanoate | 17.8 mmol, 5.00 g | C(=O)(O)C=1C=C(C=CC1OC)CC(C(=O)OCC)CC | C15H20O5
reactant | Triethylamine | 44.5 mmol, 6.21 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 19.5 mmol, 1.86 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | 4-(trifluoromethyl)benzylamine | 17.8 mmol, 2.51 ml | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | dichloroethane | 80 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Ethyl 2-ethyl-3-[4-methoxy-3-[N-[[4-(trifluoromethyl)phenyl]-methyl]carbamoyl]phenyl]propanoate | C(C)C(C(=O)OCC)CC1=CC(=C(C=C1)OC)C(NCC1=CC=C(C=C1)C(F)(F)F)=O | C23H26F3NO4
